US06608059B1
d) 5-(2,6-Dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carboxylic Acid Ethyl Ester
To a solution of 1-(3-cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid ethyl ester (0.60 g, 1.39 mmol) in toluene (30 mL) was added azidotrimethylsilane (0.55 mL, 4.17 mmol) and dibutyltin oxide (0.10 g, 0.42 mmol). The reaction mixture was heated and stirred under argon at reflux temperature for 40 h. The solution was cooled and the toluene removed under reduced pressure. Methanol was then added and removed under reduced pressure. Ethyl acetate was added and the reaction mixture was washed with water and brine. The organic layer was dried over MgSO4, filtered and the solvent removed under reduced pressure. Purification by flash chromatography (silica gel, 10% methanol/dichloromethane) yielded a white solid (0.58 g, 87%). MS(ES) m/e 474.2 [M +H]+.

reactant | 1-(3-cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid ethyl ester | 1.39 mmol, 0.60 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC#N | C22H20Cl2N2O3
reactant | azidotrimethylsilane | 4.17 mmol, 0.55 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.42 mmol, 0.10 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-Dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carboxylic Acid Ethyl Ester | 0.58 g, 87% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC1=NN=NN1 | C22H21Cl2N5O3
